US04795748
Diphenyl-(2-methylprop-2-yl)silyl 3-hydroxybenzoate
To stirred solution of 50.4 g of 3-hydroxybenzoic acid in 200 ml of dry dimethylformamide at 0° C. was added 24.85 g of imidazole, followed by 100 g of diphenyl-(2-methylprop-2-yl)silyl chloride. The mixture was stirred at room temperature for 16 hours, and partitioned between ethyl acetate and cold water. The organic layer was washed with water, with an aqueous potassium hydrogen carbonate solution and with brine, was dried over anhydrous magnesium sulphate and evaporated to dryness. The resulting white solid was slurried in dry chloroform and filtered to afford 72 g of the title compound.

reactant | 3-hydroxybenzoic acid | 50.4 g | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | imidazole | 24.85 g | N1C=NC=C1 | C3H4N2
reactant | diphenyl-(2-methylprop-2-yl)silyl chloride | 100 g | C1(=CC=CC=C1)[Si](C(C)(C)C)(C1=CC=CC=C1)Cl | C16H19ClSi
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | Diphenyl-(2-methylprop-2-yl)silyl 3-hydroxybenzoate | 72 g | OC=1C=C(C(=O)O[Si](C(C)(C)C)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1 | C23H24O3Si
